US05455274
A stirred solution of 4-hydroxy-N,N-bis(1-methylethyl)benzamide (500 mg, 2.3 mmol) in 5 mL of N,N-dimethylformamide is treated with 1-bromo-5-chloropentane (300 μL, 2.3 mmol) and cesium carbonate (750 mg, 2.3 mmol) and heated for 2 hours. This is treated with a mixture of 2-fluoro-4-hydroxy-benzonitrile, and 60% sodium hydride (92 mg, 2.3 mmol) in 2 mL of N,N-dimethylformaide followed by sodium iodide (1.04 g, 6.9 mmol). The reaction is heated to 70° C. for 6 hours and partitioned between ethyl acetate and water. The organic phase is washed with brine, dried over sodium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (20 g) with 70% ethyl acetate/hexane as the eluent to afford 4-[5-(4-cyano-3-fluoro-phenoxy)pentyloxy]-N,N -bis(1-methylethyl)benzamide.

reactant | 4-hydroxy-N,N-bis(1-methylethyl)benzamide | 2.3 mmol, 500 mg | OC1=CC=C(C(=O)N(C(C)C)C(C)C)C=C1 | C13H19NO2
reactant | 1-bromo-5-chloropentane | 2.3 mmol, 300 μL | BrCCCCCCl | C5H10BrCl
reactant | cesium carbonate | 2.3 mmol, 750 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluoro-4-hydroxy-benzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | sodium hydride | 2.3 mmol, 92 mg | [H-].[Na+]
reactant | sodium iodide | 6.9 mmol, 1.04 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[5-(4-cyano-3-fluoro-phenoxy)pentyloxy]-N,N -bis(1-methylethyl)benzamide | C(#N)C1=C(C=C(OCCCCCOC2=CC=C(C(=O)N(C(C)C)C(C)C)C=C2)C=C1)F | C25H31FN2O3
